US05059609
7-Methoxy-3-(3-pyridyl)methylene-4-chromanone
By the method of Example 1, 7-methoxy-4-chromanone (10 g, 56 mmol) and 3-pyridine carbaldehyde (5.2 g, 73 mmol) were converted to present title product, isolated directly from the reaction mixture by cooling to 0° C., 11.9 g; m.p. 176°-178° C.; MS 267 (M+, base peak).

reactant | 7-methoxy-4-chromanone | 56 mmol, 10 g | COC1=CC=C2C(CCOC2=C1)=O | C10H10O3
reactant | 3-pyridine carbaldehyde | 73 mmol, 5.2 g | N1=CC(=CC=C1)C=O | C6H5NO
product | 7-Methoxy-3-(3-pyridyl)methylene-4-chromanone | COC1=CC=C2C(C(COC2=C1)=CC=1C=NC=CC1)=O | C16H13NO3
